US05661159
To a mixture of 7-chloro-2-(5-aminobenzofuran-2-yl)-quinoline (0.28 g) and pyridine (0.12 ml) in a mixture of dichloromethane (10 ml) and N,N-dimethylformamide (20 ml), 2,2-dimethylsuccinic anhydride was added dropwise at ambient temperature- After being stirred at ambient temperature for 1 day, the resulting mixture was poured into ice-water. The appeared precipitates were collected by filtration, washed with water and recrystallized from ethanol to give 7-chloro-2-[5-(3-carboxy-3-methylbutyrylamino)benzofuran-2-yl]quinoline (0.13 g).

reactant | 7-chloro-2-(5-aminobenzofuran-2-yl)-quinoline | 0.28 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)N | C17H11ClN2O
reactant | pyridine | 0.12 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethylsuccinic anhydride | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-2-[5-(3-carboxy-3-methylbutyrylamino)benzofuran-2-yl]quinoline | 0.13 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)NC(CC(C)(C)C(=O)O)=O | C23H19ClN2O4
